US04077965
Potassium 3-(N-acetylglycyl)dithiocarbazate (102.3 g) was added bit by bit to concd. sulfuric acid (1 liter) at 0° to 5° C and the mixture was stirred for an hour at the same temperature. The reaction mixture was added dropwise on crushed ice (c.a. 10 kg) under stirring. Precipitating crystals were collected by filtration to give 5-acetamidomethyl-1,3,4-thiadiazole-2-thiol (54.5 g). m.p. 200° to 203° C.

reactant | Potassium 3-(N-acetylglycyl)dithiocarbazate | 102.3 g | C(C)(=O)NCC(=O)NNC(=S)[S-].[K+]
solvent | sulfuric acid | 1 liter | S(O)(O)(=O)=O | H2O4S
product | 5-acetamidomethyl-1,3,4-thiadiazole-2-thiol | 54.5 g | C(C)(=O)NCC1=NN=C(S1)S | C5H7N3OS2
